US04264774
5-Bromo-2-thiophenesulfonyl Bromide
To a slurry of 6.43 g (0.025 mol) of 5-bromo-2-thiophenesulfonyl hydrazine and some crushed ice in 100 ml of chloroform was added 8.0 g (0.05) of bromine dropwise with stirring. After the addition was complete and all of the bromine color had disappeared, the chloroform layer was separated and dried over anhydrous magnesium sulfate. The chloroform was removed in vacuo, leaving an orange oil. The oil was dissolved in ether/hexane and cooled to crystallize 3.67 g of the title compound as off-white crystals, mp 48°-50°.

reactant | 5-bromo-2-thiophenesulfonyl hydrazine | 0.025 mol, 6.43 g | BrC1=CC=C(S1)S(=O)(=O)NN | C4H5BrN2O2S2
reactant | bromine | 8.0 g | BrBr | Br2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether hexane | CCOCC.CCCCCC
product | 5-Bromo-2-thiophenesulfonyl Bromide | BrC1=CC=C(S1)S(=O)(=O)Br | C4H2Br2O2S2
